US09284291B2
1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carboximid-amide
A mixture of 1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile hydrobromide (citalopram hydrobromide, 300 mg, 1.0 equiv), copper(II) chloride (1.5 equiv) and ammonia (2.8 equiv) in ethanol (6 mL) was heated at 80° C. for 48 h. The mixture was cooled to room temperature and concentrated to dryness to give crude product (M/Z 342 [M++H]). This material was purified by re-suspending the crude product in fresh ethanol, filtration to remove insoluble material and slow evaporation under N2 to give the title product, 90 mg (23%) of a pale yellow powder.

reactant | 1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carbonitrile hydrobromide | 300 mg, 1.0 equiv | Br.CN(CCCC1(OCC2=C1C=CC(=C2)C#N)C2=CC=C(C=C2)F)C
reactant | ammonia | 2.8 equiv | N | H3N
solvent | ethanol | 6 mL | C(C)O | C2H6O
catalyst | copper(II) chloride | 1.5 equiv | [Cu](Cl)Cl
product | 1-[3-(dimethylamino)propyl]-1-(4-fluorophenyl)-1,3-dihydro-2-benzofuran-5-carboximid-amide | CN(CCCC1(OCC2=C1C=CC(=C2)C(N)=N)C2=CC=C(C=C2)F)C | C20H24FN3O
